US05399580
(±)-(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(4,5-dichloro-2-nitroanilino)-1,2-cyclopentanediyl diacetate (1.00 g, 2.16 mmol), Raney nickel (Aldrich, slurry in water, 100 mg wet), and isopropanol (200 mL) were shaken under hydrogen (50 psi) for 1.25 hours. Catalyst was filtered off with Celite and the filtrate-wash evaporated to dryness. The residual yellow oil was dissolved in triethylorthoaceate (20 mL) with 1 drop of methanesulfonic acid and the solution stirred at ambient temperature for 18 hours. Volatiles were removed in vacuo and the residue stirred in dioxane (20 mL)-1N sodium hydroxide (10 mL) for 5 hours at ambient temperature. The pH was then adjusted to 1 with concentrated hydrochloric acid and stirring continued for 15 minutes, at which point TLC (silica gel, developed with 20 % methanol-chloroform) showed one UV-absorbing spot at Rf 0.25. The solution was neutralized with sodium hydroxide and volatiles evaporated in vacuo. The residue was chromatograped on a silica gel column and title compound eluted with 10-15% methanol-chloroform. Crystallization from ethanol-methanol-water gave (±)-(1R*,2S*,3S*,5S*)-5-(5,6-dichloro-2-methyl-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol as fine white crystals (0.482 g, 67%), m.p. 222°-226° C.; 1H-NMR(DMSO-d 6) δ: 8.30 and 7.72 (both s, 2,2 aromatic CH), 5.0-4.8 (m, 3,2 OH and NCH), 4.56 (t, J=5.1 Hz, 1, CH2OH), 4.2-4.1 (m, 2,2 OCH), 3.8-3.5 (m, 2, CH2O ), 2.58 (s, 3, CH3), 2.4-2.2 (m, 1, CH), 2.2-1.9 (m, 2, CH2); mass spectrum (CI): 332 (M+1).

reactant | (±)-(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(4,5-dichloro-2-nitroanilino)-1,2-cyclopentanediyl diacetate | 2.16 mmol, 1.00 g | C(C)(=O)O[C@H]1[C@H]([C@@H](C[C@@H]1NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])COC(C)=O)OC(C)=O | C18H20Cl2N2O8
reactant | isopropanol | 200 mL | C(C)(C)O | C3H8O
catalyst | Raney nickel | 100 mg | [Ni] | Ni
product | (±)-(1R*,2S*,3S*,5S*)-5-(5,6-dichloro-2-methyl-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol | 0.482 g, 67% | ClC1=CC2=C(N(C(=N2)C)[C@H]2C[C@H]([C@@H]([C@@H]2O)O)CO)C=C1Cl | C14H16Cl2N2O3
